US08383628B2
Synthesis of 4-PHENYL-N-(5-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]-PYRIDIN-2-YL)BUTYRAMIDE
To a solution of [4-(6-aminopyridin-3-yl)piperazin-1-yl]-(2-trifluoromethylphenyl)-methanone (0.035 g, 0.10 mmol) in dichloromethane was added diisopropylethylamine (0.084 mL, 0.48 mmol), followed by 1-hydroxybenzotriazole monohydrate (0.018 g, 0.12 mmol), EDCl (0.023 g, 0.12 mmol) and DMAP (0.015 g, 0.12 mmol). The resulting mixture was stirred for 15 minutes and 3-phenyl-1-propylamine (0.020 g, 0.12 mmol) was added. After stirring for 18 h, the reaction mixture was diluted with ethyl acetate, washed with brine, dried over anhydrous MgSO4, filtered and concentrated in vacuo. Purification by preparative thin layer chromatography afforded the title compound as a pale white solid (6.2 mg, 12.5% yield). 1H NMR (300 MHz, CDCl3) δ 8.12, 7.97, 7.87, 7.72, 7.59, 7.34, 7.10-7.29, 3.98, 3.34, 3.22, 3.02, 2.70, 2.37, 2.08. MS (ES+) m/z 497.2 (M+1).

reactant | [4-(6-aminopyridin-3-yl)piperazin-1-yl]-(2-trifluoromethylphenyl)-methanone | 0.10 mmol, 0.035 g | NC1=CC=C(C=N1)N1CCN(CC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C17H17F3N4O
reactant | diisopropylethylamine | 0.48 mmol, 0.084 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-hydroxybenzotriazole monohydrate | 0.12 mmol, 0.018 g | O.ON1N=NC2=C1C=CC=C2
reactant | EDCl | 0.12 mmol, 0.023 g | CCN=C=NCCCN(C)C.Cl
reactant | 3-phenyl-1-propylamine | 0.12 mmol, 0.020 g | C1(=CC=CC=C1)CCCN | C9H13N
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | DMAP | 0.12 mmol, 0.015 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-PHENYL-N-(5-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]-PYRIDIN-2-YL)BUTYRAMIDE | 6.2 mg, 12.5% yield | C1(=CC=CC=C1)CCCC(=O)NC1=NC=C(C=C1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C27H27F3N4O2
